US04002617
A mixture of 0.20 g of 2,3,6,7-tetrahydro-dipyrano-[4,3,2-de:2',3',4'-ij]-phthalazine and 5.0 g of benzaldehyde is heated up to 130° C. Then 6 drops of concentrated hydrochloric acid are added and the mixture is stirred for 30 minutes at 130° C, after which the mixture is evaporated to dryness in vacuo. The residue is crystallised from n-butanol yielding 3,6-di-benzylidene-2,7-dihydrodipyrano-[4,3,2-de:2',3',4'-ij]-phthalazine in a yield of 88%. Melting point: 242° C.

reactant | 2,3,6,7-tetrahydro-dipyrano-[4,3,2-de:2',3',4'-ij]-phthalazine | 0.20 g | O1CCC=2N=NC3=C4C(=CC=C1C24)OCC3 | C12H10N2O2
reactant | benzaldehyde | 5.0 g | C(C1=CC=CC=C1)=O | C7H6O
catalyst | hydrochloric acid | 6 drops | Cl | ClH
product | 3,6-di-benzylidene-2,7-dihydrodipyrano-[4,3,2-de:2',3',4'-ij]-phthalazine | yield of 88% | C(C1=CC=CC=C1)=C1COC=2C3=C1N=NC1=C3C(=CC2)OCC1=CC1=CC=CC=C1 | C26H18N2O2
